US07906677B2
N-(2′-chloro-6′-fluorophenyl)-N-chloroacetyl-4-ethylaniline
Same procedure as example 6a starting from 2-chloro-6-fluorophenol and 2-chloro-N-(4-ethylphenyl)acetamide.

reactant | 2-chloro-6-fluorophenol | ClC1=C(C(=CC=C1)F)O | C6H4ClFO
reactant | 2-chloro-N-(4-ethylphenyl)acetamide | ClCC(=O)NC1=CC=C(C=C1)CC | C10H12ClNO
product | N-(2′-chloro-6′-fluorophenyl)-N-chloroacetyl-4-ethylaniline | ClC1=C(C(=CC=C1)F)N(C1=CC=C(C=C1)CC)C(CCl)=O | C16H14Cl2FNO
